US04316032
28.3 Parts, 1,3-diimino-4,5,6,7-tetrachloro-isoindoline and 8.5 parts hydroxyl-ammonium sulphate are stirred in 150 parts dimethylformamide for 1 hour at 80°. After cooling the product can be filtered and washed with dimethylformamide and water to obtain pure 1-oximino-3-imino-4,5,6,7-tetrachloroisoindoline in the form of colourless crystalls which up to 300° only darken but do not melt.

reactant | 1,3-diimino-4,5,6,7-tetrachloro-isoindoline | N=C1NC(C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)=N | C8H3Cl4N3
reactant | hydroxyl-ammonium sulphate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-oximino-3-imino-4,5,6,7-tetrachloroisoindoline | N(O)=C1NC(C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)=N | C8H3Cl4N3O
